US07192657B2
Into a flask were introduced methyl 4-hydroxybenzoate (251.0 g, 1.65 mol), potassium carbonate (276.37 g, 1.99 mol) and 1200 g of acetone. This was refluxed for 45 min followed by the drop-wise addition of 1-octylbromide (386.17 g, 1.99 mol) over a 1 hour period. The reaction mixture was refluxed for two days. Filtration of the cooled reaction mixture and evaporation of the filtrate gave an oil. This was taken up in ethyl acetate and extracted with 5% NaOH (2×100 ml) followed by water (2×100 ml). The organic layer was dried (MgSO4), concentrated, and transferred to a pre-weighed 1L three-necked flask. The contents of the flask were subjected to high vacuum distillation to remove the excess 1-octylbromide. The pot residue gave 376 g (86% yield) of methyl 4-octoxybenzoate.

reactant | methyl 4-hydroxybenzoate | 1.65 mol, 251.0 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | potassium carbonate | 1.99 mol, 276.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 1200 g | CC(=O)C | C3H6O
reactant | 1-octylbromide | 1.99 mol, 386.17 g | C(CCCCCCC)Br | C8H17Br
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 4-octoxybenzoate | 376 g, 86% yield | C(CCCCCCC)OC1=CC=C(C(=O)OC)C=C1 | C16H24O3
